US08183264B2
2-Amino-6-methoxymethyl-nicotinonitrile
2-Amino-6-methoxymethyl-nicotinamide (90 mg) described in Manufacturing Example 6-1 and phosphorus oxychloride (3.0 g) were stirred for 0.5 hour at 100° C. The reaction solution was added to 0° C. dilute aqueous sodium hydroxide and then extracted with ethyl acetate. The organic layer was concentrated and the residue was purified with silica gel chromatography (ethyl acetate) to obtain the titled compound (40 mg).

reactant | 2-Amino-6-methoxymethyl-nicotinamide | 90 mg | NC1=C(C(=O)N)C=CC(=N1)COC | C8H11N3O2
reactant | phosphorus oxychloride | 3.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-Amino-6-methoxymethyl-nicotinonitrile | 40 mg | NC1=C(C#N)C=CC(=N1)COC | C8H9N3O
